US05767116
A mixture of 4-carbamoyl-1-(2,4-dinitrophenyl)-pyridinium chloride (41 g) and 2-chloroaniline (20 g) in methanol (500 ml) was stirred at ambient temperature for 24 hours. The mixture was then heated under reflux for 24 hours and then a further portion of 2-chloroaniline (10 g) was added. Heating under reflux was continued for a further 48 hours then another portion of 2-chloroaniline (10 g) was added. The mixture was heated for a further 48 hours, then cooled and the solvent removed in vacuo. The residue was triturated with hot acetone (2×11), cooled and the solid collected by filtration. The solid was dissolved in hot methanol (100 ml), treated with charcoal and hot filtered. Hot ethyl acetate (500 ml) was added to the filtrate and the solution was allowed to cool. The resulting solid was collected by filtration, washed with ethyl acetate and dried to give crude 4-carbamoyl-1-(2-chlorophenyl)-pyridinium chloride (23.69 g) which was used without further purification.

reactant | 4-carbamoyl-1-(2,4-dinitrophenyl)-pyridinium chloride | 41 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-]
reactant | 2-chloroaniline | 20 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 2-chloroaniline | 10 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 2-chloroaniline | 10 g | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | methanol | 500 ml | CO | CH4O
product | 4-carbamoyl-1-(2-chlorophenyl)-pyridinium chloride | 23.69 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=C(C=CC=C1)Cl | InChI=1S/C12H9ClN2O.ClH/c13-10-3-1-2-4-11(10)15-7-5-9(6-8-15)12(14)16;/h1-8H,(H-,14,16);1H
